US07368578B2
A mixture of {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazol-4-yl}methanol (0.27 g), activated manganese dioxide (0.90 g) and tetrahydrofuran (20 mL) was stirred at room temperature for 3 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carbaldehyde as colorless crystals (0.22 g, yield 81%). Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 121-122° C.

reactant | {1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazol-4-yl}methanol | 0.27 g | C(C1=CC=CC=C1)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C28H27N3O5
catalyst | manganese dioxide | 0.90 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methylbenzyl)oxy]-1H-pyrazole-4-carbaldehyde | 0.22 g, yield 81% | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)C | C28H25N3O5
